datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([O:16][O:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:17][O:16][C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([C:15]([H:24])([H:25])[H:26])[H:23],62.3416
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:16])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])[H:15])([H:13])[H:14],29.7064
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][H:7],7.78224
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:9])[H:10])([H:6])([H:7])[H:8],255.224
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:9])([H:7])[H:8],-2.092
[C:0]([C:1]([c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]([H:19])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:24]>>[C:0]([C:1]([C:2]1=[C:3]([H:17])[C:4]([H:18])[C:5]([H:19])([H:24])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14],16.2141
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][O:29][O:30][H:31],58.19944
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[H:5],30.7106
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([H:7])[H:8])[H:6])([H:4])[H:5],199.995
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34])[H:12],0.75312
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:27])([H:28])[H:29])([C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:5],45.8148
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:8]([H:9])([H:10])[H:11],16.5686
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:9])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])([H:12])[H:13])([H:10])[H:11],83.68
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9](=[C:10]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]1([C:8]([C:9](=[C:10]([H:26])[H:27])[H:25])[H:24])[H:23])[H:13])([H:11])[H:12],58.3668
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][H:13],32.2168
